US06323176B1
1,2,3,4-Tetra-O-Acetyl-6-Deoxy-β-D-Glucopyranose
1,2,3,4-Tetra-O-acetyl-6-deoxy-6-iodo-β-D-glucopyranose (251.6 mg, 0.549 mmol) was dissolved in 20 mL of ethanol. To this solution was added 1 mL of triethylamine and 5% palladium on carbon (50.0 mg). The reaction mixture was exposed to 60 psi of hydrogen in a Parr apparatus at room temperature for 5 hours. The palladium on carbon was filtered off and the ethanol was removed in vacuo to yield a white solid. Purification via column chromatography over silica gel yielded 82.3 mg of the title compound as a white solid. (45w). MS(FAB) calculated for C14H20O9 (M+): 332.1. Found: 331.1.

reactant | 1,2,3,4-Tetra-O-acetyl-6-deoxy-6-iodo-β-D-glucopyranose | 0.549 mmol, 251.6 mg | C(C)(=O)O[C@H]1[C@H](OC(C)=O)[C@@H](OC(C)=O)[C@H](OC(C)=O)[C@H](O1)CI | C14H19IO9
reactant | triethylamine | 1 mL | C(C)N(CC)CC | C6H15N
reactant | hydrogen | [H][H] | H2
solvent | ethanol | 20 mL | C(C)O | C2H6O
catalyst | palladium on carbon | 50.0 mg | [Pd] | Pd
product | 1,2,3,4-Tetra-O-Acetyl-6-Deoxy-β-D-Glucopyranose | 82.3 mg | C(C)(=O)O[C@H]1[C@H](OC(C)=O)[C@@H](OC(C)=O)[C@H](OC(C)=O)[C@H](O1)C | C14H20O9
